US05136080
2. 2,4-Diamino-5-(2,3-dichlorophenyl)-6-hydroxypyrimidine
Sodium (1.2 g, 0.052 mol) was added in portions to absolute ethanol (50 ml) with stirring. After the sodium had dissolved guanidine hydrochloride (3.69 g, 0.039 mol) was added followed by ethyl-2-cyano-2-(2,3-dichlorophenyl)acetate (5 g, 0.0195 mol). The mixture was refluxed for 8 hours, EtOH was removed under reduced pressure and the residue was partitioned between EtOAc and water. The EtOAc layer was extracted with 2N NaOH and the extract was neutralised with 2N HCl with cooling. The precipitated solid was filtered and dried to give the title compound. (0.22 g), mp. 275° C. (decomp).

reactant | Sodium | 0.052 mol, 1.2 g | [Na] | Na
reactant | guanidine hydrochloride | 0.039 mol, 3.69 g | Cl.NC(=N)N
reactant | ethyl-2-cyano-2-(2,3-dichlorophenyl)acetate | 0.0195 mol, 5 g | C(C)OC(C(C1=C(C(=CC=C1)Cl)Cl)C#N)=O | C11H9Cl2NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,4-Diamino-5-(2,3-dichlorophenyl)-6-hydroxypyrimidine | NC1=NC(=C(C(=N1)N)C1=C(C(=CC=C1)Cl)Cl)O | C10H8Cl2N4O
